BJTdriver -- 2in st. lin -- 20in coupled line LTRA -- 2in st line -- DiodeCircuit

* This unclassified circuit is from Raytheon, courtesy Gerry Marino.
* 
*                                      _______
* -------- 2in  _________________ 2in  |     |
* | BJT  |______|               |______|Diode|
* |      |------|               |------|     |
* | Drvr | line |   2-wire      | line |rcvr.|
* --------      |   coupled     |      |_____|
*               |  transmission |
* |-/\/\/\/\----|   line        |-------\/\/\/\/\----|
* |  50ohms     |               |         50ohms     |
* |             |               |                    |
* Ground        -----------------                   Ground
*                      
*
* Each inch of the lossy line is modelled by 10 LRC lumps in the 
* Raytheon model.

* The line parameters (derived from the Raytheon input file) are:
* L = 9.13nH per inch
* C = 3.65pF per inch
* R = 0.2 ohms per inch
* K = 0.482 [coupling coefficient; K = M/sqrt(L1*L2)]
* Cc = 1.8pF per inch
*
* coupled ltra model generated  using the standalone program
* multi_decomp

* the circuit

v1 1 0 0v pulse(0 4 1ns 1ns 1ns 20ns 40ns)

vcc 10 0 5v

* series termination
*x1 1 oof 10 bjtdrvr
*rseries oof 2 50

x1 1 2 10 bjtdrvr
rt1 3 0 50


* convolution model
x2 2 3 4 5 conv2wetcmodel

* rlc segments model
*x2 2 3 4 5 rlc2wetcmodel

x3 4 dioload
rt2 5 0 50



.model qmodn npn(bf=100 rb=100 cje=0.09375pF cjc=0.28125pF is=1e-12
+pe=0.5 pc=0.5)

.model qmodpd npn(bf=100 rb=100 cje=0.08187pF cjc=0.2525pF is=1e-12
+pe=0.5 pc=0.5)

.model qmodpdmine npn(bf=100 rb=100  cje=0.08187pF cjc=0.05pF is=1e-12
+pe=0.5 pc=0.5)

.model dmod1 d(n=2.25 is=1.6399e-4 bv=10)

.model dmod2 d

.model dmod d(vj=0.3v)

.model diod1 d(tt=0.75ns vj=0.6 rs=909 bv=10)

.model diod2 d(tt=0.5ns vj=0.3 rs=100 bv=10)

.options acct reltol=1e-3 abstol=1e-12
.control
tran 0.1ns 60ns
rusage
*set color0=white
set xbrushwidth=3
plot v(2) v(4) v(5)
.endc

* bjt driver - 19=input, 268=output, 20=vcc; wierd node numbers from 
* the Raytheon file

.subckt bjtdrvr 19 268 20
q1 22 18 13 qmodn
q2 18 16 13 qmodn
qd2 21 9 0 qmodn
q4 14 14 0 qmodn
q3 16 15 14 qmodpd
q5 8 13 17 qmodn
q6 25 12 0 qmodn
q7 6 17 0 qmodpd
qd1 26 10 0 qmodn
q8 7 11 10 qmodn
*q10 268 17 0 qmodpd
q10 268 17 0 qmodpdmine
q9 7 10 268 qmodn

d1 0 19 dmod1
d2 18 19 dmod2
d3 13 19 dmod
dq1 18 22 dmod
dq2 16 18 dmod
d502 9 21 dmod
dq3 15 16 dmod
d10 24 8 dmod
d4 15 6 dmod
dq6 12 25 dmod
dq7 17 6 dmod
dd1 17 10 dmod
d7 11 6 dmod
dd2 17 26 dmod
d9 23 6 dmod
dq8 11 7 dmod
d501 17 268 dmod
dq9 10 7 dmod
d14 20 27 dmod
d8 0 268 dmod

r1 18 20 6k
r2 22 20 2.2k
r4 0 13 7k
rd1 9 13 2k
rd2 21 13 3k
r3 16 20 10k
r5 15 20 15k
r9 0 17 4k
r6 24 20 750
r10 12 17 2k
r12 24 11 1.5k
r11 25 17 3k
r15 23 20 10k
r13 0 10 15k
r14 7 27 12

.ends bjtdrvr

* subckt dioload - diode load: input=28, output=4, vcc=5

.subckt dioload 28
*comment out everything in dioload except d5 and r503, and watch
* the difference in results obtained between a tran 0.1ns 20ns and
* a tran 0.01ns 20ns
vccint 5 0 5v

c1 28 0 5pF
r503 0 4 5.55
r4 0 28 120k
r5 1 5 7.5k

d5 4 28 diod2
d1 1 28 diod1
d4 2 0 diod1
d3 3 2 diod1
d2 1 3 diod1
.ends dioload

* subckt rlclump - one RLC lump of the lossy line

.subckt rlclump 1 2
*r1 1 3 0.02
*c1 3 0 0.365pF
*l1 3 2 0.913nH

l1 1 3 0.913nH
c1 2 0 0.365pF
r1 3 2 0.02

*r1 1 3 0.01
*c1 3 0 0.1825pF
*l1 3 4 0.4565nH
*r2 4 5 0.01
*c2 5 0 0.1825pF
*l2 5 2 0.4565nH

*c1 1 0 0.365pF
*l1 1 2 0.913nH
.ends lump

.subckt rlconeinch 1 2
x1 1 3 rlclump
x2 3 4 rlclump
x3 4 5 rlclump
x4 5 6 rlclump
x5 6 7 rlclump
x6 7 8 rlclump
x7 8 9 rlclump
x8 9 10 rlclump
x9 10 11 rlclump
x10 11 2 rlclump
.ends rlconeinch

.subckt rlctwoinch 1 2
x1 1 3 rlconeinch
x2 3 2 rlconeinch
.ends rlctwoinch

.subckt rlcfourinch 1 2
x1 1 3 rlconeinch
x2 3 4 rlconeinch
x3 4 5 rlconeinch
x4 5 2 rlconeinch
.ends rlcfourinch

.subckt rlcfiveinch 1 2
x1 1 3 rlconeinch
x2 3 4 rlconeinch
x3 4 5 rlconeinch
x4 5 6 rlconeinch
x5 6 2 rlconeinch
.ends rlcfiveinch

.subckt rlctwentyrlcfourinch 1 2
x1 1 3 rlcfiveinch
x2 3 4 rlcfiveinch
x3 4 5 rlcfiveinch
x4 5 6 rlcfiveinch
x5 6 2 rlcfourinch
.ends rlctwentyrlcfourinch

.subckt rlclumpstub A B C D
x1 A int1 rlcfiveinch
x2 int1 int2 rlcfiveinch
x3 int2 1 rlcfiveinch
x4 1 2 rlcfourinch
x5 1 int3 rlcfiveinch
x6 int3 B rlconeinch
x7 2 C rlcfiveinch
x8 2 D rlcfourinch
.ends rlclumpstub

.subckt ltrastub A B C D
o1 A 0 1 0 lline15in
o2 1 0 B 0 lline6in
o3 1 0 2 0 lline4in
o4 2 0 C 0 lline5in
o5 2 0 D 0 lline4in
.ends ltrastub

*modelling using R and lossless lines

*5 segments per inch
.model llfifth ltra nocontrol rel=10 r=0 g=0 l=9.13e-9
+c=3.65e-12 len=0.2 steplimit quadinterp

.subckt xlump 1 2 
o1 1 0 3 0 llfifth
r1 2 3 0.04
.ends xlump

.subckt xoneinch 1 2
x1 1 3 xlump
x2 3 4 xlump
x3 4 5 xlump
x4 5 6 xlump
x5 6 2 xlump
*x5 6 7 xlump
*x6 7 8 xlump
*x7 8 9 xlump
*x8 9 10 xlump
*x9 10 11 xlump
*x10 11 2 xlump
.ends xoneinch

.subckt xFourinch 1 2
x1 1 3 xoneinch
x2 3 4 xoneinch
x3 4 5 xoneinch
x4 5 2 xoneinch
.ends xfourinch

.subckt xfiveinch 1 2
x1 1 3 xoneinch
x2 3 4 xoneinch
x3 4 5 xoneinch
x4 5 6 xoneinch
x5 6 2 xoneinch
.ends xfiveinch

.subckt xlumpstub A B C D
x1 A int1 xfiveinch
x2 int1 int2 xfiveinch
x3 int2 1 xfiveinch
x4 1 2 xfourinch
x5 1 int3 xfiveinch
x6 int3 B xoneinch
x7 2 C xfiveinch
x8 2 D xfourinch
.ends xlumpstub

* modelling a 2 wire coupled system using RLC lumps
* 10 segments per inch
*
* 1---xxxxx----2
* 3---xxxxx----4

.subckt rlc2wlump 1 3 2 4
l1 1 5 0.913nH
c1 2 0 0.365pF
r1 5 2 0.02
l2 3 6 0.913nH
c2 4 0 0.365pF
r2 6 4 0.02
cmut 2 4 0.18pF
k12 l1 l2 0.482
.ends rlc2wlump

.subckt rlc2woneinch 1 2 3 4
x1 1 2 5 6 rlc2wlump
x2 5 6 7 8  rlc2wlump
x3 7 8 9 10 rlc2wlump
x4 9 10 11 12 rlc2wlump
x5 11 12 13 14 rlc2wlump
x6 13 14 15 16 rlc2wlump
x7 15 16 17 18 rlc2wlump
x8 17 18 19 20 rlc2wlump
x9 19 20 21 22 rlc2wlump
x10 21 22 3 4 rlc2wlump
.ends rlc2woneinch

.subckt rlc2wfiveinch 1 2 3 4
x1 1 2 5 6 rlc2woneinch
x2 5 6 7 8 rlc2woneinch
x3 7 8 9 10 rlc2woneinch
x4 9 10 11 12 rlc2woneinch
x5 11 12 3 4 rlc2woneinch
.ends rlc2wfiveinch

.subckt rlc2wtwentyinch 1 2 3 4
x1 1 2 5 6 rlc2wfiveinch
x2 5 6 7 8 rlc2wfiveinch
x3 7 8 9 10 rlc2wfiveinch
x4 9 10 3 4 rlc2wfiveinch
.ends rlc2wtwentyinch

.subckt rlc2wetcmodel 1 2 3 4
x1 1 5 rlctwoinch
x2 5 2 6 4 rlc2wtwentyinch
x3 6 3 rlctwoinch
.ends rlc2wetcmodel

* Subcircuit conv2wtwentyinch
* conv2wtwentyinch is a subcircuit that models a 2-conductor transmission line with
* the following parameters: l=9.13e-09, c=3.65e-12, r=0.2, g=0,
* inductive_coeff_of_coupling k=0.482, inter-line capacitance cm=1.8e-12,
* length=20. Derived parameters are: lm=4.40066e-09, ctot=5.45e-12.
* 
* It is important to note that the model is a simplified one - the
* following assumptions are made: 1. The self-inductance l, the
* self-capacitance ctot (note: not c), the series resistance r and the
* parallel capacitance g are the same for all lines, and 2. Each line
* is coupled only to the two lines adjacent to it, with the same
* coupling parameters cm and lm. The first assumption imply that edge
* effects have to be neglected. The utility of these assumptions is
* that they make the sL+R and sC+G matrices symmetric, tridiagonal and
* Toeplitz, with useful consequences.
* 
* It may be noted that a symmetric two-conductor line will be
* accurately represented by this model.

* Lossy line models
.model mod1_conv2wtwentyinch ltra rel=1.2 nocontrol r=0.2 l=4.72933999088e-09 g=0 c=7.25000000373e-12 len=20
.model mod2_conv2wtwentyinch ltra rel=1.2 nocontrol r=0.2 l=1.35306599818e-08 g=0 c=3.65000000746e-12 len=20

* subcircuit m_conv2wtwentyinch - modal transformation network for conv2wtwentyinch
.subckt m_conv2wtwentyinch 1 2 3 4
v1 5 0 0v
v2 6 0 0v
f1 0 3 v1 0.707106779721
f2 0 3 v2 -0.707106782652
f3 0 4 v1 0.707106781919
f4 0 4 v2 0.707106780454
e1 7 5 3 0 0.707106780454
e2 1 7 4 0 0.707106782652
e3 8 6 3 0 -0.707106781919
e4 2 8 4 0 0.707106779721
.ends m_conv2wtwentyinch

* Subckt conv2wtwentyinch
.subckt conv2wtwentyinch 1 2 3 4
x1 1 2 5 6 m_conv2wtwentyinch
o1 5 0 7 0 mod1_conv2wtwentyinch
o2 6 0 8 0 mod2_conv2wtwentyinch
x2 3 4 7 8 m_conv2wtwentyinch
.ends conv2wtwentyinch

.model convtwoinch ltra r=0.2 l=9.13e-9 c=3.65e-12 len=2.0 rel=1.2 nocontrol
.subckt conv2wetcmodel 1 2 3 4
o1 1 0 5 0 convtwoinch
x1 5 2 6 4 conv2wtwentyinch
o2 6 0 3 0 convtwoinch
.ends conv2wetcmodel

.end
